US05162305
Preparation of Boc-Abu-Asn-Leu-OEt
Using 6.50 g of Boc-Asn-Leu-OEt and 5.48 g of Boc-Abu-OSu, the same procedure as in Reference Example 35 was repeated to obtain 7.20 g (yield: 90.2%) of the above objective compound having a melting point of 152°-155° C.

reactant | Boc-Asn-Leu-OEt | 6.50 g | N([C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)OCC)C(=O)OC(C)(C)C | C17H31N3O6
reactant | Boc-Abu-OSu | 5.48 g | N([C@@H](CC)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C13H20N2O6
product | Boc-Abu-Asn-Leu-OEt | 7.20 g, yield: 90.2% | N([C@@H](CC)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)OCC)C(=O)OC(C)(C)C | C21H38N4O7
